US07256300B2
To a suspension of (S)-1,1,1-trifluoro-4-(5-fluoro-2-methoxyphenyl)-4-methyl-2-((R)-toluene-4-sulfinylmethyl)pentan-2-ol (44.2 g, 102 mmol) and sodium iodide (46.0 g, 307 mmol) in 600 mL of anhydrous acetone at −40° C. was added a solution of trifluoroacetic acid anhydride (72.2 mL, 511 mmol) in 200 mL of anhydrous acetone via an addition funnel dropwise over 30 minutes. A greenish brown mixture was formed instantaneously. After 15 minutes, the reaction mixture was quenched with saturated aqueous sodium sulfite (Na2SO3) solution and neutralized with saturated aqueous sodium carbonate (Na2CO3) solution. The brown color disappeared and the crude product was concentrated to remove most of the acetone solvent. The resulting material was diluted with water and extracted three times with ether (one 600 mL portion and two 400 mL portions). The combined organic phases were washed with brine, dried over magnesium sulfate (MgSO4), filtered, and concentrated in vacuo to afford (S)-1,1,1-trifluoro-4-(5-fluoro-2-methoxyphenyl)-4-methyl-2-p-tolylsulfanylmethylpentan-2-ol as an orange oil (42.7 g, 100%).

reactant | (S)-1,1,1-trifluoro-4-(5-fluoro-2-methoxyphenyl)-4-methyl-2-((R)-toluene-4-sulfinylmethyl)pentan-2-ol | 102 mmol, 44.2 g | FC([C@](CC(C)(C)C1=C(C=CC(=C1)F)OC)(O)C[S@@](=O)C1=CC=C(C=C1)C)(F)F | C21H24F4O3S
reactant | sodium iodide | 307 mmol, 46.0 g | [I-].[Na+]
reactant | trifluoroacetic acid anhydride | 511 mmol, 72.2 mL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | acetone | 600 mL | CC(=O)C | C3H6O
solvent | acetone | 200 mL | CC(=O)C | C3H6O
product | (S)-1,1,1-trifluoro-4-(5-fluoro-2-methoxyphenyl)-4-methyl-2-p-tolylsulfanylmethylpentan-2-ol | 42.7 g, 100% | FC([C@](CC(C)(C)C1=C(C=CC(=C1)F)OC)(O)CSC1=CC=C(C=C1)C)(F)F | C21H24F4O2S
